US06699992B2
b. Preparation of 3-Cyano-2,4-dichloro-5-fluoroaniline
27.0 g of 3-cyano-2,4-dichloro-5-fluoronitrobenzene (0.247 mol), 500 ml of ethanol and 2.18 g of Pd/C were heated to 60° C. and hydrogenated under 3 Mpa of hydrogen pressure for 3 hours. The reaction mixture was cooled to room temperature. The catalyst was filtered off. After removing the solvent, 48.0 g of 3-cyano-2,4-dichloro-5-fluoroaniline were given in 94.7 yield.

reactant | 3-cyano-2,4-dichloro-5-fluoronitrobenzene | 0.247 mol, 27.0 g | C(#N)C=1C(=C(C=C(C1Cl)F)[N+](=O)[O-])Cl | C7HCl2FN2O2
reactant | hydrogen | [H][H] | H2
catalyst | Pd/C | 2.18 g | [Pd] | Pd
solvent | ethanol | 500 ml | C(C)O | C2H6O
product | 3-Cyano-2,4-dichloro-5-fluoroaniline | C(#N)C=1C(=C(N)C=C(C1Cl)F)Cl | C7H3Cl2FN2
